US05314863
69.8 g of glycine ethyl ester hydrochloride are initially introduced into 120 ml of water and 41 ml of concentrated hydrochloric acid. 38 g of NaNO2 in 60 ml of water are then added dropwise at -10° C. in the course of 1 hour. After half an hour, a further 42.5 ml of concentrated hydrochloric acid are added, and then, in the course of 1 hour, a further 38 g of NaNO2 in 60 ml of water. Stirring is continued for 1 hour at -10° C. The mixture is subsequently extracted with ether, and the ether phase is washed several times with water. The ether is distilled off, and the crystals are dried. In this way, 38 g (50% of theory) of ethyl 2-chloro-2-hydroximinoacetate of a melting point of 81°-82° C. are obtained.

reactant | glycine ethyl ester hydrochloride | 69.8 g | Cl.C(C)OC(CN)=O
reactant | hydrochloric acid | 41 ml | Cl | ClH
reactant | NaNO2 | 38 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 42.5 ml | Cl | ClH
reactant | NaNO2 | 38 g | N(=O)[O-].[Na+]
solvent | water | 60 ml | O | H2O
solvent | water | 60 ml | O | H2O
solvent | water | 120 ml | O | H2O
product | ethyl 2-chloro-2-hydroximinoacetate | 38 g, 50% | ClC(C(=O)OCC)=NO | C4H6ClNO3
